US04044015
B. 1-benzyl-2,3-dihydro-1H-imidazo[1,2-a]pyridinium bromide
To 2.0 g. of 2,3-dihydroimidazo[1,2-a]pyridine in 40 ml. of dry acetonitrile is added 3.42 g. of α-bromotoluene and the resulting mixture heated to reflux overnight. The solution is cooled to room temperature and treated with 30 ml. of diethyl ether. The precipitated solid is filtered and recrystallized from acetonitrile, 1.64 g., m.p. 143°-145° C.

reactant | 2,3-dihydroimidazo[1,2-a]pyridine | N=1CCN2C1C=CC=C2 | C7H8N2
reactant | acetonitrile | C(C)#N | C2H3N
reactant | α-bromotoluene | BrCC1=CC=CC=C1 | C7H7Br
solvent | diethyl ether | C(C)OCC | C4H10O
product | 1-benzyl-2,3-dihydro-1H-imidazo[1,2-a]pyridinium bromide | [Br-].C(C1=CC=CC=C1)[NH+]1CCN2C1=CC=CC2 | InChI=1S/C14H16N2.BrH/c1-2-6-13(7-3-1)12-16-11-10-15-9-5-4-8-14(15)16;/h1-8H,9-12H2;1H
